US05462954
Ethyl 3-(2-(4-iodobutoxy)phenyl)propionate
The title compound was prepared in 85% yield from ethyl 3-(2-hydroxyphenyl)propionate and 4-chlorobutyl bromide according to the procedure of Preparation 36 followed by treatment with sodium iodide; the product was an oil. NMR.

reactant | ethyl 3-(2-hydroxyphenyl)propionate | OC1=C(C=CC=C1)CCC(=O)OCC | C11H14O3
reactant | 4-chlorobutyl bromide | ClCCCCBr | C4H8BrCl
reactant | sodium iodide | [I-].[Na+]
product | Ethyl 3-(2-(4-iodobutoxy)phenyl)propionate | 85% yield | ICCCCOC1=C(C=CC=C1)CCC(=O)OCC | C15H21IO3
